US04210578
21.1 g of 1,2,3,6-tetramethyl-2,6-diethyl-4-hydroxypiperidine and 20 g of triethylamine are dissolved in 250 ml of dioxane. By addition of 10.9 g of trimethylchlorosilane and using the same procedure of reaction and isolation as described in the previous examples there is obtained 1,2,3,6-tetramethyl-2,6-diethyl-4-(trimethylsiloxy)-piperidine (Compound No. 6), b.p. 78°-79° C./0.35 mm Hg.

reactant | 1,2,3,6-tetramethyl-2,6-diethyl-4-hydroxypiperidine | 21.1 g | CN1C(C(C(CC1(CC)C)O)C)(CC)C | C13H27NO
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 10.9 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | 1,2,3,6-tetramethyl-2,6-diethyl-4-(trimethylsiloxy)-piperidine | CN1C(C(C(CC1(CC)C)O[Si](C)(C)C)C)(CC)C | C16H35NOSi
